data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,8396,"CC(=O)C1=CO[CH:1]=[CH:2]1.O=[S+:3](=O)O|((2, 1), 3)"
train,pmechdb_split_0,0,2942,"CCCCC1C(=O)C=C[N+:1](S(=O)(=O)C2=CC=C(C)C=C2)=[CH:2]1.C[Si](C)(C)C[C:3]#[CH:4]|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,3518,"O=S(=O)(O)C1=CC=C2C(=C1)C=C[CH:1]=[CH:2]2.O=[N+:3]=[O:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7926,"C[CH:1]([H:2])[CH2+:3]|((1, 2), 3)"
train,pmechdb_split_0,0,9218,"CC(=O)[O-].CC(C)(C)[OH:1].CCN(CC)CC.CN(C)C1=CC=[N+]([C:2](C)=[O:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6302,"CC=CC1CCCC(C)C1[NH2:1].[CH3:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8098,"C1=CC2=C(C=C1)CC([NH+]1CCCC1)([O-:1])C2.CC1=CC=C(S(=O)(=O)[O:2][H:3])C=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8030,"O=C(O[C+:1]1C=CC=C[C:2]1([N+](=O)[O-])[H:3])C1=CC=CC=C1.O=S(=O)(O)[O-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,4326,"O=C(O)NC(=C([N+](=O)[O-])[N+](=O)[O-])[NH:1]C(=O)O.O=S(=O)(O)[O:2][H:3].O=[N+]([O-])C[N+](=O)[O-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4236,"COC12C=CC(CC1)C[C:1]2=[O:2].[Br][Mg:3][C:4]1=CC2=C3C=CC=CC3=CC=C2C=C1|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,6485,"C[SH:1].[Br:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7673,"COP(=O)(OC)[C:1](=[N+]=[N-])[C:2](C)(OC)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2173,"O=C(Cl)C[CH2:1][O:2]S(=O)Cl.[Cl-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9201,"O[P:1](O)(O)(O)[Br:2]|((1, 2), 2)"
train,pmechdb_split_0,0,2770,"C[CH:1](CC=O)[OH2+:2]|((1, 2), 2)"
train,pmechdb_split_0,0,1408,"CC[N+:1](C)(C)[CH2:2][CH2:3][H:4].[OH-:5]|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,808,"CC(C)[O-].CC(C)[O][Al-:1]([O]C(C)C)([O]C(C)C1CCCCC1)[OH+:2]C(C)C|((1, 2), 2)"
train,pmechdb_split_0,0,710,"CS(=O)(=O)[O-:1].C[P+:2](C)(C)[O:3][H:4]|(1, 4);((4, 3), 2)"
train,pmechdb_split_0,0,9210,"CCO[C:1](CCC(=O)N(C)C)=[O:2].C[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1126,"CO.COC[NH+:1](CCC1=CC=CC=C1)[H:2].[Cl-].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8765,"COCC1C(O)C[CH:1]([N+:2]2=CC(C)=CC=C2)[O:3]1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3065,"N#CC1=C2C=C[CH:1]=[CH:2]C2=CC=C1.O=[N+:3]=[O:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,4367,"CC(C)O[C:1](C(C)C)=[O:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,429,"C[C:1]#[C:2]CC(C1=CC=CC=C1)[O+:3]=[CH:4]C1=CC=C([N+](=O)[O-])C=C1.O=S(=O)([O-])C(F)(F)F|((2, 1), 4);((4, 3), 3)"
train,pmechdb_split_0,0,9259,"C1=CC=C([CH:1]=[O:2])C=C1.CCO[C:3](=[CH:4]C[N+]12CCN(CC1)CC2)[O-:5]|(5, 3);((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,4460,"CP(C)(C)(Cl)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4182,"C=[C:1]([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,1328,"CCCC1CC(CC(C)C)C[CH:1]([O:2]S(=O)(=O)C2=CC=C(C)C=C2)C1OC(C)=[O:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2492,"CCCOC(=O)C[NH2+:1][P:2](C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)[O:3][H:4].N#N.[OH2:5]|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,4165,"CCC1O[C:1]([C:2]#N)([O-:3])C2=C1C=CC=C2.[Na+]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8654,"CO.COC1=C2OC3C45CCNC(CC(=C24)C=C1)C5C[CH:1]=[C:2]3[OH:3].CS(=O)(=O)[O:4][H:5]|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,8787,"CCCCCC(C)(OP(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)[O:1][H:2])C(=O)C1CCCC2=C(C=CC=C2)C1=O.[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7757,"C=[O:1].C[CH+]C[Si:2](C)(C)C|(1, 2)"
train,pmechdb_split_0,0,2145,"CC1(C2=CC=CC=C2)CCCC[CH:1]=[C:2]1C1=CC=CC=C1.[H:3][Br:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7475,"C[NH+:1]=[S:2](C)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1920,"CC1CC2OC(=O)CC(C1O)C21CCC[N+:1]2=[C:2]1CCC2.CO.N#C[BH2-:3][H:4].O=C(O)C(F)(F)F.O=C([O-])C(F)(F)F|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,3730,"O=C(CCOC1=CC=CC=C1)[Cl:1].[Cl][Al:2]([Cl])[Cl]|(1, 2)"
train,pmechdb_split_0,0,7083,"CC[N:1](CC)CC.COC1=C(NC(=O)C[NH+:2](C(O)CC(C)(C)C)[H:3])C=CC(OCCOC(C)=O)=C1.O=C([O-])C(F)(F)F|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7312,"C[C:1](C)([H:2])[C+:3](C)C.[OH2:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,7068,"CC(C)(C)[O-:1].COCOC1CC2CCC34C2=C1CCC3([O:2][H:3])CCC4OS(C)(=O)=O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8734,"C[SH:1].[OH:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2705,"COP(=O)(OC)[C-:1]=[N+]=[N-].C[C:2](C)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8572,"CC(O)C(C)O[P:1](Cl)(Cl)([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,1829,"C=C(C)C[O+:1](C(C)(C)CO)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,595,"CO[C:1]1=[C:2]2C=CC=C[C:3]2=[CH:4]C=C1.O=[N+:5]=[O:6]|((1, 2), 3);((3, 4), 5);((5, 6), 6)"
train,pmechdb_split_0,0,1611,"CC(C)(C)[OH:1].C[CH:2]([H:3])[CH+:4]C|(1, 3);((3, 2), 4)"
train,pmechdb_split_0,0,3567,"CC(C)[C:1]1([H:2])C2=C(C=C[CH+:3]1)C=C(C(F)(F)F)C=C2.[F-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,1846,"CC(C1=CC(C#N)=CC=C1)=[O:1].CCOCC.F[B:2](F)F.OCCO|(1, 2)"
